US07662821B2
2-(Bromomethyl)-5-fluoro-3-nitrobenzoic acid methyl ester
2.37 g (11.12 mmol) of 5-fluoro-2-methyl-3-nitrobenzoic acid methyl ester is added in 35 ml of carbon tetrachloride and mixed with 2.24 g (12.24 mmol) of N-bromosuccinimide and 5.4 mg of benzoyl peroxide. After four days of refluxing, the succinimide is suctioned off (glass-fiber filter) after cooling, and then the filtrate is spun in until a dry state is reached. Chromatography on a Flashmaster yields 2.47.g (75.9%) of the desired compound.

reactant | 5-fluoro-2-methyl-3-nitrobenzoic acid methyl ester | 11.12 mmol, 2.37 g | COC(C1=C(C(=CC(=C1)F)[N+](=O)[O-])C)=O | C9H8FNO4
reactant | N-bromosuccinimide | 12.24 mmol, 2.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 5.4 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
solvent | carbon tetrachloride | 35 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(Bromomethyl)-5-fluoro-3-nitrobenzoic acid methyl ester | COC(C1=C(C(=CC(=C1)F)[N+](=O)[O-])CBr)=O | C9H7BrFNO4
